US04898874
4-(2,1-Benzisoxazol-3-yl)benzeneacetic acid
A solution of 3.6 g (0.015 mole) of 4-(2,1-benzisoxazol-3-yl)benzeneacetonitrile in 75 ml of ethanol and 10 ml of 20% sodium hydroxide was heated at reflux under a nitrogen atmosphere overnight. The dark solution was cooled and poured into 600 ml of water. The solution was filtered and the filtrate was treated with charcoal. The mixture was filtered through Celite and the filtrate pH was adjusted to 7. The mixture was again filtered and the filtrate was made acidic with concentrated hydrochloric acid. The solid which precipitated was collected by filtration, washed with water, dried, and recrystallized from 2-propanol to yield 2.1 g (54%) of tan powder, m.p. 179°-181° C. with decomposition.

reactant | 4-(2,1-benzisoxazol-3-yl)benzeneacetonitrile | 0.015 mole, 3.6 g | N=1OC(=C2C1C=CC=C2)C2=CC=C(C=C2)CC#N | C15H10N2O
reactant | water | 600 ml | O | H2O
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 4-(2,1-Benzisoxazol-3-yl)benzeneacetic acid | 2.1 g, 54% | N=1OC(=C2C1C=CC=C2)C2=CC=C(C=C2)CC(=O)O | C15H11NO3
